US04614742
Synthesis of 2,4,5-Trifluoro-6-phenylthioisophthalonitrile (i.e., Compound No. 41)
A 2.0 g amount of tetrafluoroisophthalonitrile and 0.87 g of potassium fluoride were dissolved in 10 ml of acetonitrile. After cooling the mixture to a temperature of 0° C. by an ice-water bath, 1.1 g of phenyl mercaptan was dropwise added by a syringe. While mixture was maintained at a temperature of about 0° C., the mixture was stirred for 8 hours and the solvent was then distilled off. A 50 ml amount of water was added to the mixture and potassium fluoride was dissolved. The mixture was extracted with chloroform, and the extract was dried with magnesium sulfate. The chloroform was distilled off in vacuo and the resultant liquid was then distilled in vacuo to obtain 1.8 g (63% yield) of the desired compound No. 41 at a boiling point of 65° C. to 67° C./0.7 mmHg.

reactant | tetrafluoroisophthalonitrile | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | potassium fluoride | 0.87 g | [F-].[K+]
reactant | phenyl mercaptan | 1.1 g | C1(=CC=CC=C1)S | C6H6S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,4,5-Trifluoro-6-phenylthioisophthalonitrile | 1.8 g, 63% yield | FC1=C(C#N)C(=C(C(=C1C#N)F)F)SC1=CC=CC=C1 | C14H5F3N2S
